US05977101
a) Methyl (±)-1-(tert-butoxycarbonyl)-7-carboxy-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate
A mixture of methyl (±)-7-carboxy-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate (1 g, 3.42 mmol), di-tert-butyl dicarbonate (1.48 g, 6.8 mmol) and 4-dimethylaminopyridine (42 mg, 0.3 mmol) in anhydrous CH3CN (30 mL) was stirred at RT for 3 h. More di-tert-butyl dicarbonate (0.65 g, 3 mmol) was then added to the clear yellow solution and the reaction was stirred at RT for an additional h. The reaction mixture was then quenched with water, the CH3CN was removed in vacuo, and the residue was extracted with EtOAc. The organic layers were washed sequentially with saturated NH4Cl and H2O, then were dried (MgSO4) and concentrated in vacuo. Silica gel chromatography (7/3 hexane/EtOAc-1% AcOH) gave the title compound (1.05 g, 78%) as a white solid: 1H NMR (CDCl3, 400 MHz) δ 1.55 (s, 9H), 2.69 (dd, J=16, 5 Hz, 1H), 2.98 (dd, J=16, 5 Hz, 1H), 3.10 (s, 3H), 3.65-3.68 (m, 1H), 3.72 (s, 3H), 5.16 (dd, J=5, 5 Hz, 1H), 5.45 (d, J=16.4 Hz, 1H), 6.52 (d, J=8.4 Hz, 1H), 7.59 (d, J=1.4 Hz, 1H), 7.78 (dd, J=8.4, 1.4 Hz, 1H).

reactant | methyl (±)-7-carboxy-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate | 3.42 mmol, 1 g | C(=O)(O)C=1C=CC2=C(CN(C(C(N2)CC(=O)OC)=O)C)C1 | C14H16N2O5
reactant | di-tert-butyl dicarbonate | 6.8 mmol, 1.48 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 3 mmol, 0.65 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.3 mmol, 42 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH3CN | 30 mL | CC#N | C2H3N
product | Methyl (±)-1-(tert-butoxycarbonyl)-7-carboxy-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate | 1.05 g, 78% | C(C)(C)(C)OC(=O)N1C(C(N(CC2=C1C=CC(=C2)C(=O)O)C)=O)CC(=O)OC | C19H24N2O7
